US08314088B2
3-[(1R)-1-cyclopropylethoxy]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine hydrochloride
To a solution of 8-benzyl-3-[(1R)-1-cyclopropylethoxy]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine (32.9 mg) in toluene (3 mL) was added 1-chloroethyl chloroformate (0.11 mL), and the mixture was stirred at 90° C. for 3 hr. The reaction mixture was cooled to room temperature, and concentrated. To the obtained residue was added methanol (3 mL), and the mixture was stirred at 60° C. for 1 hr. The reaction mixture was cooled to room temperature, and concentrated. The concentrate was diluted with ethyl acetate, and washed with saturated aqueous sodium hydrogen carbonate, water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (solvent gradient; 10→100% ethyl acetate/hexane). To a solution of the obtained oil in methanol (1 mL) was added 1 N hydrochloric acid (0.45 mL), and the mixture was concentrated under reduced pressure. The obtained crude crystals were purified by recrystallization (ethanol-diisopropyl ether) to give the title compound (8.6 mg, 3%) as colorless crystals.

reactant | 8-benzyl-3-[(1R)-1-cyclopropylethoxy]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 32.9 mg | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)O[C@H](C)C2CC2 | C19H23N3O2
reactant | 1-chloroethyl chloroformate | 0.11 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[(1R)-1-cyclopropylethoxy]-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine hydrochloride | 8.6 mg, 3% | Cl.C1(CC1)[C@@H](C)OC1=NC2=C(CNCCO2)N=C1 | InChI=1S/C12H17N3O2.ClH/c1-8(9-2-3-9)17-11-7-14-10-6-13-4-5-16-12(10)15-11;/h7-9,13H,2-6H2,1H3;1H/t8-;/m1./s1
